US06395766B1
Step 1: 3-Bromo-1-(2-cyanophenyl)-6,6-dimethyl-4,5,6,7-tetrahydroindol-4-one
A solution of 3-bromo-6,6-dimethyl-4,5,6,7-tetrahydro-1H-indol-4-one (670 mg, 2.77 mmol), 2-fluorobenzonitrile (0.3 mL, 2.77mmol) and K2CO3 (957 mg, 6.9 mmol) in DMSO (10 mL) was stirred at 100° C. for 3 h. The mixture was cooled to room temperature, poured into water and extracted into EtOAc (3×). The combined organic layers were washed with water (2×), dried (MgSO4) and evaporated. The title compound (858 mg, 91%) was isolated as a beige solid and used without further purification. 1H NMR (400 MHz, CDCl3) δ 1.10 (6H,s), 2.42 (2H,s), 2.51 (2H,s), 6.83 (1H,s), 7.42 (1H,dd, J=7.9 and 0.9Hz), 7.64 (1H,dd, J=7.7 and 1.1 Hz), 7.78 (1H,dd, J=7.9 and 1.5 Hz), 7.85 (1H,dd, J=7.7 and 1.4 Hz). MS (ES+) 343/345 (M+1).

reactant | 3-bromo-6,6-dimethyl-4,5,6,7-tetrahydro-1H-indol-4-one | 2.77 mmol, 670 mg | BrC1=CNC=2CC(CC(C12)=O)(C)C | C10H12BrNO
reactant | 2-fluorobenzonitrile | 2.77mmol, 0.3 mL | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | K2CO3 | 6.9 mmol, 957 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 3-Bromo-1-(2-cyanophenyl)-6,6-dimethyl-4,5,6,7-tetrahydroindol-4-one | 858 mg, 91% | BrC1=CN(C=2CC(CC(C12)=O)(C)C)C1=C(C=CC=C1)C#N | C17H15BrN2O
